US07541357B2
7-Bromo-3,4-dihydronaphthalen-1-one was prepared from bromobenzene and succinic anhydride as described in Example 64 (Steps A to C).

reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
product | 7-Bromo-3,4-dihydronaphthalen-1-one | BrC1=CC=C2CCCC(C2=C1)=O | C10H9BrO
